US07544672B2
Step 4. N-(4-Chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethyl-propionamide
A solution of N-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethyl-propionamide (101 g, 0.40 mol) in anhydrous THF (2 L) was treated with N-iodosuccinimide (98.9 g, 0.44 mol, 1.1 eq.) under N2 atmosphere at rt for 40 min. The solvent was evaporated, and the residue was taken up in CH2Cl2 (1.5 L), and washed with Na2SO3 (500 mL×3) and brine (300 mL×3). Evaporated and recrystallizion from MeOH gave the title product as a white powder (122 g, 81% yield, HPLC purity: 98.2%). tR: 6.19 min. 1H-NMR (DMSO-d6) δ 12.65 (br.s, 1H), 10.11 (br. s, 1H), 7.76 (d, 1H), 1.24 (s, 9H).

reactant | N-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethyl-propionamide | 0.40 mol, 101 g | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)NC=C2 | C11H13ClN4O
reactant | N-iodosuccinimide | 0.44 mol, 98.9 g, 1.1 eq. | IN1C(CCC1=O)=O | C4H4INO2
solvent | THF | 2 L | C1CCOC1 | C4H8O
product | N-(4-Chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-2,2-dimethyl-propionamide | 122 g, 81% yield | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)NC=C2I | C11H12ClIN4O
